US07001900B2
2-[N,N-Bis(trifluoromethanesulfonyl)amino]-5-chloropyridine (1.81 g, 4.6 mmol) is added to a solution of 2-hydroxy-5-methoxy naphthalene (802 mg, 4.6 mmol) and TEA (640 μL, 4.6 mmol) in CH2Cl2 (15 mL). The reaction is allowed to stir for 2 hours then poured into water. The resulting solution is extracted three times with CH2Cl2. The combined organic extracts are dried (Na2SO4), filtered and concentrated. The resulting material is purified by column chromatography (25% CH2Cl2 in hexanes) to give 5-methoxy-2-naphthyl trifluoromethanesulfonate as a white solid (1.14 g, 80%). HRMS (EI) calculated for C2H9F3O4S 306.0174, found 306.0172.

reactant | 2-[N,N-Bis(trifluoromethanesulfonyl)amino]-5-chloropyridine | 4.6 mmol, 1.81 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
reactant | 2-hydroxy-5-methoxy naphthalene | 4.6 mmol, 802 mg | OC1=CC2=CC=CC(=C2C=C1)OC | C11H10O2
reactant | water | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 5-methoxy-2-naphthyl trifluoromethanesulfonate | 1.14 g, 80% | FC(S(=O)(=O)OC1=CC2=CC=CC(=C2C=C1)OC)(F)F | C12H9F3O4S
